US06479527B1
4-(3,4-Dichlorobenzenesulfonyl)furo[3,2-b]pyrrole-5-carboxylic acid (Compound No. 20 in Table I)
Methyl 4-(3,4-dichlorobenzenesulfonyl)furo[3,2-b]pyrrole-5-carboxylate (1.15 g) and lithium iodide (4.0 g) were dissolved in pyridine (50 ml) and heated at reflux for 5 hours, cooled, then concentrated in vacuo. The residue was partitioned between 2N HCl and ether. Combined organic extracts were dried (MgSO4), concentrated, and the residue triturated with ether to give the product as a white crystalline solid which was filtered and dried (0.58 g, 52%), NMR d(DMSO) 7.02 (1H, d), 7.27 (1H, s), 7.88 (2H, s), 8.03 (1H, d), 8.22 (1H, s); M/z (−) 360 (M+), 314, 252, 250, 227, 225, 209, 170. Analysis for C13H7Cl2NO5S found C, 43.2%; H, 2.1%; N, 3.8%; theory C, 41.4%; H, 2.0%; N, 3.9%.

reactant | Methyl 4-(3,4-dichlorobenzenesulfonyl)furo[3,2-b]pyrrole-5-carboxylate | 1.15 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1C2=C(C=C1C(=O)OC)OC=C2 | C14H9Cl2NO5S
reactant | lithium iodide | 4.0 g | [I-].[Li+]
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4-(3,4-Dichlorobenzenesulfonyl)furo[3,2-b]pyrrole-5-carboxylic acid | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1C2=C(C=C1C(=O)O)OC=C2 | C13H7Cl2NO5S
